US07816536B2
2-Bromo-6,7-dihydro-1H-indol-4(5H)-one:
was prepared using a literature procedure (Remers et al., J. Org. Chem., 36:1241-1247 (1971) (“Remers”), which is hereby incorporated by reference). To a 100 mL round bottom flask charged with a magnetic stir bar was added 1,5,6,7-tetrahydro-4H-indol-4-one (1.2 g, 8.8 mmole) and dry THF (20 mL). Stirring was commenced, and a solution of phenyltrimethylammonium tribromide (3.33 g, 8.8 mmole) in 15 mL of dry THF was added dropwise over 10 minutes at ambient temperature. After the addition was complete, the reaction mixture was stirred for an additional 2 hours and then filtered to remove the precipitate. The filtrate was concentrated in vacuo and the residue treated with dichloromethane (30 mL) and 5% aqueous Na2CO3 solution (30 mL). The layers were separated and the dichloromethane layer was then washed with brine (30 mL), dried over anhydrous MgSO4, filtered and concentrated in vacuo to give the crude product as a white solid which was directly used without further purification. 1H NMR data matched the literature values exactly (“Remers”, which is hereby incorporated by reference).

reactant | 1,5,6,7-tetrahydro-4H-indol-4-one | 8.8 mmole, 1.2 g | N1C=CC=2C(CCCC12)=O | C8H9NO
reactant | phenyltrimethylammonium tribromide | 8.8 mmole, 3.33 g | [Br-].[Br-].[Br-].C1(=CC=CC=C1)[N+](C)(C)C.C1(=CC=CC=C1)[N+](C)(C)C.C1(=CC=CC=C1)[N+](C)(C)C
solvent | THF | 15 mL | C1CCOC1 | C4H8O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | 2-Bromo-6,7-dihydro-1H-indol-4(5H)-one | BrC=1NC=2CCCC(C2C1)=O | C8H8BrNO
